US07858796B2
(9) 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide
To a 5 L three necked flask was charged 85% wt Phosphoric acid (423 mL, 6.16 moles, 25 eq), benzyl piperidone (142 mL, 0.733 mole, 3 eq) and glacial acetic acid (400 mL). The resulting mixture was heated to 90° C. A solution of 5-phenyl-1H-indole-7-carboxamide (57.69 g, 0.244 mole, 1 eq) in glacial acetic acid (755 mL) was then added portionwise. The reaction was then maintained at 90° C. overnight. The reaction mixture was cooled to room temperature. It was then divided into two equal portions and each was added slowly to separate stirring mixtures of ice/0.88 ammonia (1 L/1 L). A dry ice/acetone bath was also used to control the exotherm. Ethyl acetate (600 mL) was then added to the mixture with stirring. It was then filtered and the solid washed well with ethyl acetate. The filtrate was then separated and the aq was re-extracted with ethyl acetate. The organics were then dried over magnesium sulfate and filtered before the two batches were combined and evaporated under reduced pressure. The residue was then dissolved in 3% (3.5M ammonia in methanol) in DCM (300 mL). The solid precipitate was then collected by filtration and was then dried in vacuo to yield the desired product. (42.25 g) MS: (M+H): 408.

reactant | Phosphoric acid | 6.16 moles, 423 mL, 25 eq | P(O)(O)(O)=O | H3O4P
reactant | benzyl piperidone | 0.733 mole, 142 mL, 3 eq | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | 5-phenyl-1H-indole-7-carboxamide | 0.244 mole, 57.69 g, 1 eq | C1(=CC=CC=C1)C=1C=C2C=CNC2=C(C1)C(=O)N | C15H12N2O
solvent | acetic acid | 755 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C=1CCN(CC1)CC1=CC=CC=C1 | C27H25N3O
